US05324307
General Polymerization Procedure for Glycolide-b-Caprolactone Copolymers
ε-caprolactone (Cap), diethylene glycol (DEG), and stannous octoate were combined and melted under a nitrogen atmosphere. The mixture was charged into a nitrogen purged stirred reactor at 200° C. The contents were stirred at this temperature until maximum melt viscosity was achieved. Glycolide was melted under nitrogen and charged into the reactor. The temperature was increased to 225° C. over a 15 minute period, and the contents maintained at 225° C. until maximum melt viscosity was obtained. The polymer was discharged from the reactor, ground and dried in a vacuum oven for 12-18 hours at 100° C. and 0.2 mm Hg. Specific examples of polymers prepared by this procedure are summarized in Table 7.

reactant | ε-caprolactone | C1(CCCCCO1)=O | C6H10O2
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | Glycolide b-Caprolactone | C1C(=O)OCC(=O)O1.C1(CC(CCC)O1)=O | InChI=1S/C6H10O2.C4H4O4/c1-2-3-5-4-6(7)8-5;5-3-1-7-4(6)2-8-3/h5H,2-4H2,1H3;1-2H2
